US09302989B2
N-[4-(propylcarbamoyl)phenyl]-5-(1H-pyrazol-3-yl)-1,3-dihydro-2H-isoindole-2-carboxamide
In a 4 mL vial, a solution of 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide (50 mg, 0.12 mmol) and 1H-pyrazol-3-ylboronic acid (17 mg, 0.15 mmol) in dimethylformamide was treated with saturated aqueous sodium bicarbonate followed by bis(triphenylphosphine)palladium(II) chloride (7 mg). The vial was capped under nitrogen and the reaction heated at 85° C. for 6 hours. The reaction was cooled to ambient temperature and water was added. The resulting suspension was stirred for 5 minutes and filtered. The solid collected was washed with water and dried under vacuum; the solid was purified by reverse-phase HPLC to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 12.39-13.18 (bs, 1H), 8.59 (s, 1H), 8.24-8.28 (m, 1H), 7.75-7.79 (m, 2H), 7.70-7.80 (m, 3H), 7.62-7.69 (m, 2H), 7.40 (d, J=7.9 Hz, 1H), 6.73 (d, J=2.2 Hz, 1H), 4.79-4.83 (m, 4H), 3.15-3.25 (m, 2H), 1.46-1.57 (m, 2H), 0.89 (t, J=7.4 Hz, 3H); MS (ESI(+)) m/e 390 (M+H)+.

reactant | 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | 0.12 mmol, 50 mg | BrC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H20BrN3O2
reactant | 1H-pyrazol-3-ylboronic acid | 0.15 mmol, 17 mg | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-[4-(propylcarbamoyl)phenyl]-5-(1H-pyrazol-3-yl)-1,3-dihydro-2H-isoindole-2-carboxamide | C(CC)NC(=O)C1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C1=NNC=C1 | C22H23N5O2
